US07888376B2
To an oven-dried round bottomed flask was added nBuLi (2.5 M in hexanes, 3.6 mL, 9.0 mmol, 1.1 eq) at −45 to −40° C. under N2. An Et2O solution (12 mL) of 2-bromo-6-methoxypyridine (1 mL, 8.14 mmol) was added dropwise at the above temperature. The resulting light brownish yellow solution was stirred at −40 to −35° C. for 20 min. The mixture was cooled to −78° C., an Et2O solution (3 ml) of 3-fluoro-5-trifluoromethyl-benzonitrile (1.50 g, 7.94 mmol) was added dropwise at −78 to −70° C. The resulting solution was stirred at this temperature for 1 h. Pretreated TMSCl (1.08 mL, 8.55 mmol, 1.05 eq) was added dropwise at −78° C. The mixture was allowed to warm to room temperature for 30 min, and then stirred at room temperature for 30 min. The reaction mixture was cooled back to −78° C., and benzyl magnesium chloride (4.1 ml, 8.2 mmol) was added dropwise. The resulting mixture was stirred at −78° C. for 0.8 h, and then warmed up to room temperature for 1 h. The reaction mixture was quenched by adding sat'd NH4Cl and 1N HCl, and stirred for 10 min. The resulting solution was extracted with EtOAc, washed with 1N NaOH, saturated NaHCO3, H2O, brine, dried over MgSO4, filtered, and concentrated to dryness. The residue was purified by flash chromatography (silica gel, hexanes/EtOAc) to give 1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(6-methoxypyridin-2-yl)-2-phenylethanamine as light brownish gum (1.42 g, yield: 44.7%). LC-MS ESI (10-90% MeOH in H2O with 0.1% TFA in a 4-min run), retention time=3.20 min, 391.12 (M+H); 1H NMR (400 MHz, CDCl3) δ ppm 7.73 (s, 1 H), 7.47-7.57 (m, 2 H), 7.11-7.21 (m, 4 H), 6.99 (d, J=7.6 Hz, 1 H), 6.80 (dd, J=7.6, 2.0 Hz, 2 H), 6.61 (d, J=8.1 Hz, 1 H), 3.93 (s, 3H), 3.92 (d, J=13 Hz, 1 H) 3.40 (d, J=13 Hz, 1 H).

reactant | nBuLi | 9.0 mmol, 2.5 M, 3.6 mL, 1.1 eq | [Li]CCCC
reactant | 2-bromo-6-methoxypyridine | 8.14 mmol, 1 mL | BrC1=NC(=CC=C1)OC | C6H6BrNO
reactant | 3-fluoro-5-trifluoromethyl-benzonitrile | 7.94 mmol, 1.50 g | FC=1C=C(C#N)C=C(C1)C(F)(F)F | C8H3F4N
reactant | TMSCl | 8.55 mmol, 1.08 mL, 1.05 eq | C[Si](C)(C)Cl | C3H9ClSi
reactant | benzyl magnesium chloride | 8.2 mmol, 4.1 ml | C(C1=CC=CC=C1)[Mg]Cl
solvent | Et2O | 3 ml | CCOCC | C4H10O
solvent | Et2O | 12 mL | CCOCC | C4H10O
product | 1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(6-methoxypyridin-2-yl)-2-phenylethanamine | FC=1C=C(C=C(C1)C(F)(F)F)C(CC1=CC=CC=C1)(N)C1=NC(=CC=C1)OC | C21H18F4N2O
